US07226918B2
(b) 3-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-benzoic acid sodium salt
3-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-benzoic acid methyl ester (5.42 g, 17.20 mmol) was dissolved in methanol (25 ml) and sodium hydroxide (0.75 g, 18.90 mmol) was added. The stirred solution was then refluxed under nitrogen for three hours. The methanol was removed in vacuo and the residue was triturated in ether to give the title compound as a brown solid (4.30 g, 83.33%). m/z (LC-MS, ESP): 301 (M++1).

reactant | 3-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-benzoic acid methyl ester | 17.20 mmol, 5.42 g | COC(C1=CC(=CC=C1)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C17H17NO5
reactant | sodium hydroxide | 18.90 mmol, 0.75 g | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 3-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-benzoic acid sodium salt | 4.30 g, 83.33% | [Na+].N1(CCOCC1)C1=CC(C=C(O1)C=1C=C(C(=O)[O-])C=CC1)=O | InChI=1S/C16H15NO5.Na/c18-13-9-14(11-2-1-3-12(8-11)16(19)20)22-15(10-13)17-4-6-21-7-5-17;/h1-3,8-10H,4-7H2,(H,19,20);/q;+1/p-1
